* subcircuit for 4 bit adder
* .include halfadder.sub
* .include fulladder.sub
* .include 22nm_MGK.pm

* --------------SUBCIRCUIT OF $ BIT ADDER USING $ FULL ADDER----------

.subckt  4bitadder A0 A1 A2 A3 B0 B1 B2 B3 S0 S1 S2 S3 C4 gnd high

X1 A0 B0 S0 C1 gnd high HalfAdder
X2 A1 B1 C1 S1 C2 gnd high FullAdder
X3 A2 B2 C2 S2 C3 gnd high FullAdder
X4 A3 B3 C3 S3 C4 gnd high FullAdder

.ends 4bitadder

.end