* subcircuit for 2 bit and 
* technology used is 22nm_MGK.pm.txt
* the nodes a b are input nodes 

* -----------------SUBCIRCUIT OF 3-BIT FULL ADDER--------------
.subckt and2 a b y gnd high


Mp1 n1 a high high pmos W=44nm L=22nm
Mp2 n1 b high high pmos W=44nm L=22nm
Mp3 y n1 high high pmos W=44nm L=22nm

Mn1 n1 a n2 n2 nmos W=44nm L=22nm
Mn2 n2 b gnd gnd nmos W=44nm L=22nm
Mn3 y n1 gnd gnd nmos W=44nm L=22nm


.ends and2
* ----------------------END OF SUBCIRCUIT----------------------

.end
